US05719186
A 29.6% aqueous ammonium hydroxide solution (17.6 mL, 134 mmol) was added dropwise to a stirred, chilled (ice bath) solution of (E)-2-(6-fluoro-1-indanylidene)acetyl chloride (14.1 g, 67 mmol) in dichloromethane (165 mL). After an hour, the resulting white precipitate was collected by filtration, dissolved in ethyl acetate (600 mL) and washed with water (3×300 mL). The ethyl acetate layer was dried over sodium sulfate and concentrated in vacuo. The resulting off-white solid was washed with hexane, giving 11.6 g (91%) of (E)-2-(6-fluoro-1-indanylidene)acetamide, m.p., 180°-183° C.; NMR (DMSO-d6): d6.91-7.41 (m, 5H, Ar+NH2), 6.37 (t,1H, =CH), 2.92-2.96, 3.16-3.22 (2m's, 4H, 2XCH2); steady-state nOe:irradiation at 6.37 d, observed 23% nOe at 7.28 d.

reactant | ammonium hydroxide | 134 mmol, 17.6 mL | [OH-].[NH4+]
reactant | (E)-2-(6-fluoro-1-indanylidene)acetyl chloride | 67 mmol, 14.1 g | FC1=CC=C2CC/C(/C2=C1)=C\C(=O)Cl | C11H8ClFO
solvent | dichloromethane | 165 mL | ClCCl | CH2Cl2
product | (E)-2-(6-fluoro-1-indanylidene)acetamide | 11.6 g, 91% | FC1=CC=C2CC/C(/C2=C1)=C\C(=O)N | C11H10FNO
